US06710069B2
Preparation of 2-{[1-(Phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine hydrochloride
A solution of 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine (0.20 g, 0.63 mmol) in ethyl acetate is treated with HCl in diethyl ether (1M, 0.7 ml) and filtered. The filtercake is dried in vacuo to afford the title product as a pink solid, 0.21 g, mp 198-200° C., identified by NMR and mass spectral analyses.

reactant | 2-{[1-(phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine | 0.63 mmol, 0.20 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN | C16H16N2O3S
reactant | HCl | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 1M, 0.7 ml | C(C)OCC | C4H10O
product | 2-{[1-(Phenylsulfonyl)-1H-indole-4-yl]oxy}ethylamine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=C(C=CC=C12)OCCN | InChI=1S/C16H16N2O3S.ClH/c17-10-12-21-16-8-4-7-15-14(16)9-11-18(15)22(19,20)13-5-2-1-3-6-13;/h1-9,11H,10,12,17H2;1H
